US08168667B2
4-[2,5-dioxo-4-(4-methoxyphenyl)-3-methyl-4-(2-propynyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
Following the procedure of Example 159, a solution of 380 mg of 4-[2,5-dioxo-4-(4-methoxyphenyl)-4-(2-propynyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile in 9 mL of DMF is treated to produce 580 mg of crude product which is purified by chromatography over silica while eluting with (90/10 then 85/15) heptane/ethyl acetate mixture. 320 mg of product are obtained in the form of a white solid (Yd=81%).

reactant | 4-[2,5-dioxo-4-(4-methoxyphenyl)-4-(2-propynyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 380 mg | O=C1N(C(C(N1)(CC#C)C1=CC=C(C=C1)OC)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C21H14F3N3O3
reactant | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 4-[2,5-dioxo-4-(4-methoxyphenyl)-3-methyl-4-(2-propynyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 320 mg | O=C1N(C(C(N1C)(CC#C)C1=CC=C(C=C1)OC)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C22H16F3N3O3
